US08975254B2
c) 3-(Methoxymethyl)-1H-pyrazole-5-carboxylic acid
Ethyl 3-(methoxymethyl)-1H-pyrazole-5-carboxylate (2.44 g, 13.25 mmol) dissolved in methanol (40 ml) and cesium carbonate (8.63 g, 26.5 mmol) dissolved in water (40 ml) were loaded into a flask and stirred overnight at RT under nitrogen atmosphere. Ethyl acetate (100 ml) and water (100 ml) were added and the pH was adjusted to 3 with 10% citric acid. Phases were separated and the water phase was extracted with more ethyl acetate. The combined organic phases were dried with Na2SO4, filtered and evaporated. The product was purified with flash chromatography. Yield 36.5%. 1H-NMR (400 MHz; DMSO-d6): δ 3.25 (s, 3H), 4.40 (s, 2H), 6.67 (s, 1H), 13.16 (bs, 2H).

reactant | Ethyl 3-(methoxymethyl)-1H-pyrazole-5-carboxylate | 13.25 mmol, 2.44 g | COCC1=NNC(=C1)C(=O)OCC | C8H12N2O3
reactant | cesium carbonate | 26.5 mmol, 8.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 3-(Methoxymethyl)-1H-pyrazole-5-carboxylic acid | Yield 36.5% | COCC1=NNC(=C1)C(=O)O | C6H8N2O3
